US07026352B1
(8E,12E,14E)-7-Acetoxy-3-ethoxyacetoxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (Compound B24)
Pyridinium p-toluenesulfonate (9.8 mg, 0.039 mmol) was added to a solution of (8E,12E,14E)-7-acetoxy-3-ethoxyacetoxy-6,21-bis(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide (6.0 mg, 0.0078 mmol) in methanol (1.0 mL) at room temperature, followed by stirring at the same temperature for 15 hours. The reaction mixture was diluted with 15 mL of ethyl acetate, washed with brine, dried over anhydrous magnesium sulfate and evaporated. The resulting crude product was purified by thin layer chromatography (MERCK Silicagel 60 F254, 0.2 mm, developing solution; ethyl acetate) to obtain the title compound (1.7 mg, 35%) as a colorless oil.

reactant | Pyridinium p-toluenesulfonate | 0.039 mmol, 9.8 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (8E,12E,14E)-7-acetoxy-3-ethoxyacetoxy-6,21-bis(1-ethoxyethoxy)-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 0.0078 mmol, 6.0 mg | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)OC(C)OCC)C)O1)C)\C)OC(COCC)=O)(C)OC(C)OCC | C42H70O12
solvent | methanol | 1.0 mL | CO | CH4O
solvent | ethyl acetate | 15 mL | C(C)(=O)OCC | C4H8O2
product | (8E,12E,14E)-7-Acetoxy-3-ethoxyacetoxy-6,21-dihydroxy-6,10,12,16,20-pentamethyl-18,19-epoxytricosa-8,12,14-trien-11-olide | 1.7 mg, 35% | C(C)(=O)OC\1C(CCC(CC(=O)OC(C(/C=C1)C)\C(=C\C=C\C(CC1C(C(C(CC)O)C)O1)C)\C)OC(COCC)=O)(C)O | C34H54O10
